US04275071
Example 1 was repeated but 1.33 g of aluminium trichloride, 1.13 g of chloroacetyl chloride and 1.34 g of durene were employed. 1.78 g of 3-chloroacetyl-durene were obtained, melting point 65.5°=66° C. The product was purified by distillation (bp 113°-117° C.)/0.4 mmHg) and crystallized from ethanol. Similarly, 3-bromoacetyl-durene, melting 53°-54° C. was obtained.

reactant | aluminium trichloride | 1.33 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | chloroacetyl chloride | 1.13 g | ClCC(=O)Cl | C2H2Cl2O
reactant | durene | 1.34 g | C=1(C)C(C)=CC(C)=C(C)C1 | C10H14
product | 3-chloroacetyl-durene | 1.78 g | ClCC(=O)C1=C(C(C)=CC(=C1C)C)C | C12H15ClO
